US04590195
4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-[2-(2-furoylaminosulphonylamino)ethoxymethyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
To a solution of 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (0.5 g) in chloroform (dried over alumina) and triethylamine (2 ml) was added 2-furoylsulphamoyl chloride in one portion and the mixture stirred at room temperature for 17 hours. After evaporation to dryness, the resultant oil was partitioned between 5% aqueous sodium bicarbonate and methylene chloride. The combined organic liquors were dried (MgSO4), filtered and evaporated to give 0.35 g of solid which was crystallised from diisopropyl ether to give pure title compound (0.2 g), m.p. 138° C. Found: C, 51.30; H, 5.23; N, 7.41. C25H28ClN3O9S requires C, 51.59; H, 4.85; N, 7.22%.

reactant | 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.5 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | 2-furoylsulphamoyl chloride | O1C(=CC=C1)C(=O)NS(=O)(=O)Cl | C5H4ClNO4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-[2-(2-furoylaminosulphonylamino)ethoxymethyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.35 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNS(=O)(=O)NC(=O)C=1OC=CC1)C(=O)OCC | C25H28ClN3O9S
